US04284434
0.02% Isononanoic acid
0.2% Product of addition of 9 mols of ethylene oxide+10 mols of propylene oxide to nonylphenol

reactant | ethylene oxide | 9 mols | C1CO1 | C2H4O
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | nonylphenol | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
product | Isononanoic acid | C(CCCCCC(C)C)(=O)O | C9H18O2
